US07834063B2
B. N-[4-Bromo-2-(trifluoromethyl)phenyl]-N-(2,2,2-trifluoroethyl)glycine
To a slurry of hexanes-washed NaH (0.492 g of a 60% w/w suspension in mineral oil, 12.3 mmol) in dry DMF (10 mL) at 0° C. was added a solution of 4-bromo-N-(2,2,2-trifluoroethyl)-2-(trifluoromethyl)aniline (1.96 g, 6.13 mmol) in DMF (2 mL), dropwise over 5 min. The mixture was stirred 15 min and tert-butyl bromoacetate (1.82 mL, 12.3 mmol) was added dropwise over 1 min. The mixture was stirred overnight, slowly warming to rt. The mixture was poured into water and the whole was extracted with Et2O (×3). Combined organic portions were washed (water, brine), dried over Na2SO4, filtered and concentrated. The residue was dissolved in CH2Cl2 (20 mL) and to this solution was added Et3SiH (4.9 mL, 31 mmol) and TFA (20 mL). The mixture was stirred 1.5 h at rt and concentrated in vacuo. The residue was partitioned between water/Et2O and the layers were separated. The organic layer was concentrated in vacuo. The residue was purified by filtration through a pad of silica gel (10% EtOAc/hexanes, then EtOAc to elute carboxylic acid) affording 1.50 g of the title compound as a pale yellow solid: MS (APCI) m/z 380 ([M−H]−, 81Br), 378 ([M−H]−, 79Br).

reactant | 4-bromo-N-(2,2,2-trifluoroethyl)-2-(trifluoromethyl)aniline | 6.13 mmol, 1.96 g | BrC1=CC(=C(NCC(F)(F)F)C=C1)C(F)(F)F | C9H6BrF6N
reactant | tert-butyl bromoacetate | 12.3 mmol, 1.82 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | Et3SiH | 31 mmol, 4.9 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[4-Bromo-2-(trifluoromethyl)phenyl]-N-(2,2,2-trifluoroethyl)glycine | 1.50 g | BrC1=CC(=C(C=C1)N(CC(=O)O)CC(F)(F)F)C(F)(F)F | C11H8BrF6NO2
